US04789396
6.32 Grams of 5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione was dissolved in 50 ml of tetrahydrofuran, and 2.12 g of triethylamine was added. Thereafter, 1.73 g of acetyl chloride was added dropwise with thorough stirring under ice-cooling. After continuing stirring for further 2 hours at room temperature, the precipitated solid was filtered off. The solvent was removed from the filtrate, and the residue was dissolved in ether. The ether layer was successively washed with dilute hydrochloric acid, aqueous sodium hydrogencarbonate and water and dried over anhydrous magnesium sulfate. Ether was removed to obtain 7.13 g of 1-acetoxy-5-[2-(4-trifluoromethylphenylthio)ethyl]-1-cyclohexene-3-one.

reactant | 5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | FC(C1=CC=C(C=C1)SCCC1CC(CC(C1)=O)=O)(F)F | C15H15F3O2S
reactant | triethylamine | 2.12 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.73 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-acetoxy-5-[2-(4-trifluoromethylphenylthio)ethyl]-1-cyclohexene-3-one | 7.13 g | C(C)(=O)OC1=CC(CC(C1)CCSC1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3O3S
